US07256294B2
b. Preparation of 4-formylpiperidine-1-carboxylic acid methyl ester
4-Hydroxymethylpiperidine-1-carboxylic acid methyl ester (34.7 g, 1.0 eq) was dissolved in dichloromethane and cooled to 0-10° C. A solution of sodium bicarbonate (2.35 g, 0.14 eq) and sodium bromide (2.40 g, 0.10 eq) in water (100 mL) was added over 15 min while maintaining the temperature at 0-10° C. 2,2,6,6-Tetramethyl-1-piperidinyloxy free radical (TEMPO) (0.32 g, 0.01 eq) was added to the mixture, followed by 10-13% w/v sodium hypochlorite solution (135 mL, 1.1 eq) over 1 h with good agitation while maintaining the temperature at 0-10° C. After the reaction was complete, the layers were separated and the organic layer washed with water (150 mL) and dried over sodium sulfate (30 g, 1 w/w eq). The solvent was removed by distillation to provide the title intermediate. (31.0 g, 90% yield)

reactant | 4-Hydroxymethylpiperidine-1-carboxylic acid methyl ester | 34.7 g, 1.0 eq | COC(=O)N1CCC(CC1)CO | C8H15NO3
reactant | sodium bicarbonate | 2.35 g, 0.14 eq | C([O-])(O)=O.[Na+]
reactant | sodium bromide | 2.40 g, 0.10 eq | [Br-].[Na+]
reactant | sodium hypochlorite | 135 mL, 1.1 eq | Cl[O-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | 4-formylpiperidine-1-carboxylic acid methyl ester | 90% yield | COC(=O)N1CCC(CC1)C=O | C8H13NO3
